US05216015
Step 5: Preparation of 2,2-dimethyl-4-methoxycarbonylmethyl-6-[E-2-(tributylstannyl)ethenyl]-1,3-dioxane
A mixture of E-methyl 3,5-dihydroxy-7-tributylstannyl-6-heptenoate (4.18 g), 2,2-dimethoxypropane (18 ml) and pyridinium p-toluene sulfonate (0.227 g) is stirred in anhydrous methylene chloride (4.5 ml) at room temperature for about 20 hours, diluted with ether, washed with saturated sodium bicarbonate solution then saturated sodium chloride solution. The organic solution is dried over magnesium sulfate, filtered and concentrated in vacuo. The crude product is purified by flash chromatography in 10% ether in hexane to give the desired product.

reactant | E-methyl 3,5-dihydroxy-7-tributylstannyl-6-heptenoate | 4.18 g | OC(CC(=O)OC)CC(\C=C\[Sn](CCCC)(CCCC)CCCC)O
reactant | 2,2-dimethoxypropane | 18 ml | COC(C)(C)OC | C5H12O2
reactant | pyridinium p-toluene sulfonate | 0.227 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | methylene chloride | 4.5 ml | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 2,2-dimethyl-4-methoxycarbonylmethyl-6-[E-2-(tributylstannyl)ethenyl]-1,3-dioxane | CC1(OC(CC(O1)CC(=O)OC)\C=C\[Sn](CCCC)(CCCC)CCCC)C | InChI=1S/C11H17O4.3C4H9.Sn/c1-5-8-6-9(7-10(12)13-4)15-11(2,3)14-8;3*1-3-4-2;/h1,5,8-9H,6-7H2,2-4H3;3*1,3-4H2,2H3;
